US04545806
10 parts by weight of 2-butyryl-5-(2-oxoquinol-3-yl)-cyclohexane-1,3-dione, 2.0 parts by weight of ethoxyamine and 100 parts of methanol were stirred for 8 hours at room temperature. The solvent was distilled off under reduced pressure, the residue was taken up in 200 parts of dichloromethane, and the solution was washed with 5% strength hydrochloric acid, dried over sodium sulfate and evaporated down under reduced pressure. 2-(1-Ethoxyaminobutylidene)-5-(2-oxoquinol-3-yl)-cyclohexane-1,3-dione of melting point 155°-157° C. was obtained (active ingredient No. 2).

reactant | 2-butyryl-5-(2-oxoquinol-3-yl)-cyclohexane-1,3-dione | C(CCC)(=O)C1C(CC(CC1=O)C=1C(NC2=CC=CC=C2C1)=O)=O | C19H19NO4
reactant | ethoxyamine | C(C)ON | C2H7NO
solvent | methanol | CO | CH4O
product | 2-(1-Ethoxyaminobutylidene)-5-(2-oxoquinol-3-yl)-cyclohexane-1,3-dione | C(C)ONC(CCC)=C1C(CC(CC1=O)C=1C(NC2=CC=CC=C2C1)=O)=O | C21H24N2O4
